US06737417B2
Aqueous sodium hydroxide (1N, 1 ml) was added to ethyl 10-[(R)-7-hydroxy-3-(4-hydroxyphenyl)-3,4-dihydro-2H-benzo[1,4]-oxazine-4-yl]-2-(6,6,7,7,7-pentafluoroheptyl)decanoate (56.8 mg, 0.0902 mmol) in ethanol (1 ml) under a nitrogen stream, followed by stirring for 7 hours at 50° C. After cooling, the reaction mixture was acidified with 1N aqueous hydrochloric acid and extracted with ethyl acetate. The organic layer was washed sequentially with water and saturated aqueous sodium chloride, dried over anhydrous sodium sulfate, and then concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (eluent: ethyl acetate/hexane=1/1, v/v) to give 10-[(R)-7-hydroxy-3-(4-hydroxyphenyl)-3,4-dihydro-2H-benzo[1,4]-oxazine-4-yl]-2-(6,6,7,7,7-pentafluoroheptyl)decanoic acid (41.4 mg, Yield 76%).

reactant | sodium hydroxide | 1N, 1 ml | [OH-].[Na+]
reactant | ethyl 10-[(R)-7-hydroxy-3-(4-hydroxyphenyl)-3,4-dihydro-2H-benzo[1,4]-oxazine-4-yl]-2-(6,6,7,7,7-pentafluoroheptyl)decanoate | 0.0902 mmol, 56.8 mg | OC1=CC2=C(N([C@@H](CO2)C2=CC=C(C=C2)O)CCCCCCCCC(C(=O)OCC)CCCCCC(C(F)(F)F)(F)F)C=C1 | C33H44F5NO5
reactant | hydrochloric acid | 1N | Cl | ClH
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | ethanol | 1 ml | C(C)O | C2H6O
product | 10-[(R)-7-hydroxy-3-(4-hydroxyphenyl)-3,4-dihydro-2H-benzo[1,4]-oxazine-4-yl]-2-(6,6,7,7,7-pentafluoroheptyl)decanoic acid | 41.4 mg, Yield 76% | OC1=CC2=C(N([C@@H](CO2)C2=CC=C(C=C2)O)CCCCCCCCC(C(=O)O)CCCCCC(C(F)(F)F)(F)F)C=C1 | C31H40F5NO5
